* LM4562
*****************************************************************************
* (C) Copyright 2012 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
** Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: LM4562
* Date: 4/10/2012
* Model Type: All In One
* Simulator: Pspice
* Simulator Version:  16.2
* EVM Order Number: N/A
* EVM Users Guide: N/A
* Datasheet: SNAS326I - January 26, 2010
*
* Model Version: 1.1
*
*****************************************************************************
*
* Updates:
*
* Version 1.0 : Release to Web
* Version 1.1 : a. Adjust Input Bias Current
*               b. Adjust input current white noise
*               c. Adjust common mode input range
*
*****************************************************************************
* Notes:
* The following are the model parameters being modeled:
* Voltage Noise, Current Noise, PSRR, CMRR, Aol, GBW, Slew Rate,
* Output Voltage Swing, Ishort Circuit, Commond Mode Input Range,
* Input bias current, input bias offset, voltage offset and quiescent
* current
*****************************************************************************
.SUBCKT LM4562 Vinp Vinm VCC VEE Vout
X1 VCC VEE Vinp Vinm Vout AMP
.ENDS

.SUBCKT AMP VDD VSS VIP VIM VO

Iq          VDD VSS 5E-3
IS2         VDD 6 -15.5E-9
IS3         5 VSS 4.5E-9

Vos         6 17 0.13E-3

XD4         VSS 5 IDEAL_DIODE
+PARAMS: EMCO =  0.01 BRKV =  60 IBRKV = 0.001

XD3         5 VDD IDEAL_DIODE
+PARAMS: EMCO =  0.01 BRKV =  60 IBRKV = 0.001

XD2         VSS 6 IDEAL_DIODE
+PARAMS: EMCO =  0.01 BRKV =  60 IBRKV = 0.001

XD1         6 VDD IDEAL_DIODE
+PARAMS: EMCO =  0.01 BRKV =  60 IBRKV = 0.001

XU9         VDD VSS GNDF GND_FLOAT

XU6         8 VO Vimon AMETER

XU5         VDD VSS 9 10 Vimon GNDF VCLAMP_W_SENSE
+ PARAMS: VMAXIO =  1 VMINIO =  1 SLOPE = 4

XU11         14 9 GNDF TF
+ PARAMS: FZ1 =  1E+10 FZ2 =  1E+10 FZ3 =  1E+10 FZ4 =  1E+10 FZ5 =  1E+10
+ FP1 =  200E+6 FP2 =  1E+10 FP3 =  1E+10 FP4 =  1E+10

XU16         15 16 14 GNDF GBW_SLEW_SE
+ PARAMS: AOL =  140 GBW = 55E+6 SRP =  20E+6 SRN = 20E+6 IT = 1M

XU15         VDD VSS 5 16 GNDF VCLAMP
+ PARAMS:  VMAX =  0.9 VMIN = 1.1

XU14        VDD VSS 6 15 GNDF VCLAMP
+ PARAMS:  VMAX =  0.9 VMIN = 1.1

XR3          18 8 RNOISE_LESS_WILIM
+ PARAMS: RX =  0.1 IMAX =  0.053 IMIN =  -0.042


RVXU1 10 18 13
*VXU1 10 18 0
*XU1          10 18 GNDF ZOUT
*+ PARAMS: FZ1 =  2.7916 FZ2 =  4.641E+6 FZ3 =  91.785E+6 FP1 =  0.212E+6
*+ FP2 = 3500 FEQ =  1.4 RO =  13

*VXU8 19 5 0
XU8          19 5 GNDF CMRR
+ PARAMS: CMRR =  130 FCMRR =  1000

*VXU7 20 19 0
XU7          VDD VSS 20 19 GNDF PSRR
+ PARAMS: PSRR = 120 FPSRR =  100

XU4          17 20 FEMT
+ PARAMS: NLFF =  3100 FLWF =  10 NVRF =  1600

XU3          21 17 VNSE
+ PARAMS: NLF =  6.3 FLW =  10 NVR =  2.7

XU2          VIP VIM 21 20 GNDF INPUT
+ PARAMS: RCM =  0.1 CCM =  0.1E-12 CDM =  0.1E-12

*RDIFF 21 20 30k




DPASSTOP VDD NET126 DDEFAULT
DBLOCKTOP GNDF NET126 DBLOCK
GTOP NET126 GNDF Vimon 0  1

DPASSBOTTOM NET128 VSS DDEFAULT
DBLOCKBOTTOM NET128 GNDF DBLOCK
GBOTTOM NET128 GNDF Vimon 0 1

.MODEL DDEFAULT D IS=8E-16
.MODEL DBLOCK D IS=8E-16 BV=25

.ENDS

**************************************
**                                  **
**                                  **
**                                  **
**                                  **
**************************************

.SUBCKT IDEAL_DIODE  A C
+PARAMS: EMCO = 0.01 BRKV = 60 IBRKV = 1M
D1 A C IDIODE
.MODEL IDIODE D(N = {EMCO} BV = {BRKV} IBV = {IBRKV})
.ENDS

**************************************
**                                  **
**                                  **
**                                  **
**                                  **
**************************************

.SUBCKT GND_FLOAT  VDD VSS GNDF
EGNDF  GNDF 0 VALUE = {V(VDD,VSS)*0.5}
.ENDS

**************************************
**                                  **
**                                  **
**                                  **
**                                  **
**************************************

.SUBCKT AMETER   VI  VO VIMON
+ PARAMS: GAIN = 1
VSENSE VI VO DC = 0
EMETER VIMON 0 VALUE = {I(VSENSE)*GAIN}
.ENDS


**************************************
**                                  **
**                                  **
**                                  **
**                                  **
**************************************

.SUBCKT VCLAMP_W_SENSE   VDD  VSS  VI  VO VIMON  GNDF
+ PARAMS: VMAXIO = 0 VMINIO = 0 SLOPE = 0
EPCLIP  VDD_CLP 0 VALUE = {V(VDD,GNDF) - SLOPE*V(VIMON) - VMAXIO}
ENCLIP  VSS_CLP 0 VALUE = {V(VSS,GNDF) - SLOPE*V(VIMON) + VMINIO}
ECLAMP  VO GNDF VALUE = {LIMIT(V(VI,GNDF), V(VDD_CLP), V(VSS_CLP))}
.ENDS


**************************************
**                                  **
**                                  **
**                                  **
**                                  **
**************************************

.SUBCKT TF   VI  VO  GNDF
+ PARAMS: FZ1 = 10G FZ2 = 10G FZ3 = 10G FZ4 = 10G FZ5 = 10G
+ FP1 = 1 FP2 = 10G FP3 = 10G FP4 = 10G
.PARAM GM = 1M
.PARAM RO = {1/GM}
.PARAM PI = 3.141592


************* fix floatung nodes *************
RVP1 VP1 GNDF 1T
RVP2 VP2 GNDF 1T
RVP3 VP3 GNDF 1T
RVP4 VP4 GNDF 1T
RVZ1 VZ1 GNDF 1T
RVZ2 VZ2 GNDF 1T
RVZ3 VZ3 GNDF 1T
RVZ4 VZ4 GNDF 1T
RVO VO GNDF 1T
RVI VI GNDF 1T
************* end floating nodes *************

GP1  GNDF VP1 VI GNDF {GM}
GRP1 VP1 GNDF VALUE = {V(VP1,GNDF)/RO}
CP1  VP1 GNDF {1/(2*PI*RO*FP1)}

GP2  GNDF VP2 VP1 GNDF {GM}
GRP2 VP2 GNDF VALUE = {V(VP2,GNDF)/RO}
CP2  VP2 GNDF {1/(2*PI*RO*FP2)}

GP3  GNDF VP3 VP2 GNDF {GM}
GRP3 VP3 GNDF VALUE = {V(VP3,GNDF)/RO}
CP3  VP3 GNDF {1/(2*PI*RO*FP3)}

GP4  GNDF VP4 VP3 GNDF {GM}
GRP4 VP4 GNDF VALUE = {V(VP4,GNDF)/RO}
CP4  VP4 GNDF {1/(2*PI*RO*FP4)}

GZ1  GNDF VZ1 VP4 GNDF {GM}
GRZ1  VZ1 VX1 VALUE =  {V(VZ1,VX1)/RO}
LZ1  VX1 GNDF {RO/(2*PI*FZ1)}

GZ2  GNDF VZ2 VZ1 GNDF {GM}
GRZ2  VZ2 VX2 VALUE =  {V(VZ2,VX2)/RO}
LZ2  VX2 GNDF {RO/(2*PI*FZ2)}

GZ3  GNDF VZ3 VZ2 GNDF {GM}
GRZ3  VZ3 VX3 VALUE =  {V(VZ3,VX3)/RO}
LZ3  VX3 GNDF {RO/(2*PI*FZ3)}

GZ4  GNDF VZ4 VZ3 GNDF {GM}
GRZ4  VZ4 VX4 VALUE =  {V(VZ4,VX4)/RO}
LZ4  VX4 GNDF {RO/(2*PI*FZ4)}

GZ5  GNDF VO VZ4 GNDF {GM}
GRZ5  VO VX5  VALUE = {V(VO,VX5)/RO}
LZ5  VX5 GNDF {RO/(2*PI*FZ5)}

.ENDS

**************************************
**                                  **
**                                  **
**                                  **
**                                  **
**************************************

.SUBCKT GBW_SLEW_SE   VIP  VIM  VO  GNDF
+ PARAMS: AOL = 100  GBW = 1MEG  SRP = 1MEG  SRN = 1MEG IT = 1M
.PARAM PI = 3.141592
.PARAM IP = {IF(SRP <= SRN,IT,IT*(SRP/SRN))}
.PARAM IN = {IF(SRN <= SRP,-IT,-IT*(SRN/SRP))}
.PARAM CC = {IF(SRP <= SRN,IT/SRP,IT/SRN)}
.PARAM FP = {GBW/PWR(10,AOL/20)}
.PARAM RC = {1/(2*PI*CC*FP)}
.PARAM GC = {PWR(10,AOL/20)/RC}
G1          GNDF VO VALUE = {LIMIT(GC*V(VIP,VIM),IP,IN)}
C1          VO GNDF {CC}
GR1          VO GNDF VALUE =  {V(VO,GNDF)/RC}
.ENDS

**************************************
**                                  **
**                                  **
**                                  **
**                                  **
**************************************

.SUBCKT VCLAMP   VDD  VSS  VI  VO  GNDF PARAMS: VMAX = 0.1 VMIN = 0.1
ECLAMP  VO GNDF VALUE = {LIMIT(V(VI,GNDF),V(VDD,GNDF) - VMAX, V(VSS,GNDF) + VMIN)}
.ENDS

**************************************
**                                  **
**                                  **
**                                  **
**                                  **
**************************************

.SUBCKT RNOISE_LESS_WILIM   P  N  PARAMS: RX = 1K  IMAX = 1M  IMIN = -1M
GRES  P N VALUE = {LIMIT(V(P,N)/RX, IMAX, IMIN)}
.ENDS

**************************************
**                                  **
**                                  **
**                                  **
**                                  **
**************************************

.SUBCKT ZOUT   VI VO  GNDF
+ PARAMS: FZ1 = 1.4 FZ2 = 4.7E6  FZ3 = 91E6
+ FP1 = 212K FP2 = 3.5K FEQ = 1.4 RO = 5K
.PARAM GM = 1M
.PARAM RX = {1/GM}
.PARAM PI = 3.141592

GRI  GNDF VEQ VALUE = {V(GNDF,VEQ)/10MEG}
GRF  VIZ  VEQ VALUE = {V(VIZ,VEQ)/10MEG}
CF  VIZ  VEQ {1/(2*PI*10E6*FEQ)}
EQ  VIZ GNDF VI VEQ 100K

E0  VP0 GNDF VIZ VO 1N

GZ1  GNDF VZ1 VP0 GNDF {GM}
GRZ1  VZ1 VX1 VALUE =  {V(VZ1,VX1)/RX}
LZ1  VX1 GNDF {RX/(2*PI*FZ1)}

EP1  VP1 GNDF VZ1 GNDF 1
GRP1  VP1 VP1X VALUE =  {V(VP1,VP1X)/RX}
CP1  VP1X GNDF {1/(2*PI*RX*FP1)}

GZ2  GNDF VZ2 VP1X GNDF {GM}
GRZ2  VZ2 VX2 VALUE =  {V(VZ2,VX2)/RX}
LZ2  VX2 GNDF {RX/(2*PI*FZ2)}

EP2  VP2 GNDF  VZ2 GNDF 1
GRP2  VP2 VP2X VALUE =  {V(VP2,VP2X)/RX}
CP2  VP2X GNDF {1/(2*PI*RX*FP2)}

GZ3  GNDF VZ3 VP2X GNDF {GM}
GRZ3  VZ3 VX3 VALUE =  {V(VZ3,VX3)/RX}
LZ3  VX3 GNDF {RX/(2*PI*FZ3)}

E1   VOX GNDF VZ3 GNDF 1G

GR1   VOX VO VALUE = {V(VOX,VO)/RO}

.ENDS

**************************************
**                                  **
**                                  **
**                                  **
**                                  **
**************************************

.SUBCKT CMRR   VI  VO  GNDF PARAMS: CMRR = 130 FCMRR = 1.6K
.PARAM PI = 3.141592
.PARAM RCMRR = 1
.PARAM GCMRR = {PWR(10,-CMRR/20)/RCMRR}
.PARAM LCMRR = {RCMRR/(2*PI*FCMRR)}
G1  GNDF 1 VI GNDF {GCMRR}
R1  1 2 {RCMRR}
L1  2 GNDF {LCMRR}
E1  VI VO 1 GNDF 1
.ENDS

**************************************
**                                  **
**                                  **
**                                  **
**                                  **
**************************************

.SUBCKT PSRR   VDD  VSS  VI  VO  GNDF PARAMS: PSRR = 130 FPSRR = 1.6
.PARAM PI = 3.141592
.PARAM RPSRR = 1
.PARAM GPSRR = {PWR(10,-PSRR/20)/RPSRR}
.PARAM LPSRR = {RPSRR/(2*PI*FPSRR)}
G1  GNDF 1 VDD VSS {GPSRR}
R1  1 2 {RPSRR}
L1  2 GNDF {LPSRR}
E1  VO VI 1 GNDF 1
C2  VDD VSS 10P
.ENDS

**************************************
**                                  **
**                                  **
**                                  **
**                                  **
**************************************

* BEGIN PROG NSE FEMTO AMP/RT-HZ
.SUBCKT FEMT  1 2 PARAMS: NLFF = 0.1 FLWF = 0.001 NVRF = 0.1
* BEGIN SETUP OF NOISE GEN - FEMPTOAMPS/RT-HZ
* INPUT THREE VARIABLES
* SET UP INSE 1/F
********************
* FA/RHZ AT 1/F FREQ
* NLFF
********************
* FREQ FOR 1/F VAL
* FLWF
********************
* SET UP INSE FB
* FA/RHZ FLATBAND
* NVRF
********************
* END USER INPUT
* START CALC VALS
.PARAM GLFF={PWR(FLWF,0.25)*NLFF/1164}
.PARAM RNVF={1.184*PWR(NVRF,2)}
.MODEL DVNF D KF={PWR(FLWF,0.5)/1E11} IS=1.0E-16
* END CALC VALS
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVNF
D2 8 0 DVNF
E1 3 6 7 8 {GLFF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNVF}
R5 5 0 {RNVF}
R6 3 4 1E9
R7 4 0 1E9
G1 1 2 3 4 1E-6
C1 1 0 1E-15
C2 2 0 1E-15
C3 1 2 1E-15
.ENDS
* END PROG NSE FEMTO AMP/RT-HZ

**************************************
**                                  **
**                                  **
**                                  **
**                                  **
**************************************

* BEGIN PROG NSE NANO VOLT/RT-HZ
.SUBCKT VNSE  1 2 PARAMS: NLF = 10 FLW = 4  NVR = 4.6
* BEGIN SETUP OF NOISE GEN - NANOVOLT/RT-HZ
* INPUT THREE VARIABLES
* SET UP VNSE 1/F
********************
* NV/RHZ AT 1/F FREQ
* NLF
********************
* FREQ FOR 1/F VAL
* FLW
********************
* SET UP VNSE FB
* NV/RHZ FLATBAND
* NVR
********************
* END USER INPUT
* START CALC VALS
.PARAM GLF={PWR(FLW,0.25)*NLF/1164}
.PARAM RNV={1.184*PWR(NVR,2)}
.MODEL DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
* END CALC VALS
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
C1 1 0 1E-15
C2 2 0 1E-15
C3 1 2 1E-15
.ENDS
* END PROG NSE NANOV/RT-HZ

**************************************
**                                  **
**                                  **
**                                  **
**                                  **
**************************************

.SUBCKT INPUT   VIP  VIN  VOP  VON  GNDF PARAMS: RCM = 1  CCM = 100F  CDM = 100F
C1          VOP GNDF {CCM}
C2          VON GNDF {CCM}
C3          VOP VON {CDM}
G1          VIP VOP VALUE =  {V(VIP,VOP)/RCM}
G2          VIN VON VALUE = {V(VIN,VON)/RCM}
.ENDS








