* C:\Users\Intercept\Desktop\EQUIPMENT\Vestax PDX-2000\Vestax PDX-2000 Phono Preamp\spice_new\Vestax PDX-2000 Phono v1.1.asc
XU1 IN_INV N006 +15V -15V N010 LM4562
R1 N006 0 {mc{100,tol}}
Vp +15V 0 15
Vn -15V 0 -15
R2 N007 N006 {mc{82k,tol}}
R4 N009 N008 {mc{4.7k,tol}}
R0 IN_INV 0 {mc{47k,tol}}
E_cart IN_INV 0 N011 0 laplace ((75e-6*s+1)*(3180e-6*s+1))/((318e-6*s+1))
V_cart_inv N011 0 AC 0.7071m
R_load OUT_INV 0 10k
C2 N008 N006 {mc{.022e-6,tol}}
C1 N008 N006 {mc{2700e-12,tol}}
C4 N010 N008 {mc{6800e-12,tol}}
C3 N010 N008 {mc{110e-12,tol}}
R3 N008 N007 {mc{47k,tol}}
R5 N010 N009 {mc{6.2k,tol}}
R6 OUT_INV N010 {mc{240,tol}}
C5 OUT_INV 0 {mc{2.2e-9,tol}}
C0 IN_INV 0 {mc{360e-12,tol}}
XU2 IN N001 +15V -15V N005 LM4562
R7 N001 0 {mc{100,tol}}
R8 N002 N001 {mc{82k,tol}}
R9 N004 N003 {mc{4.7k,tol}}
R10 IN 0 {mc{47k,tol}}
R_load1 OUT 0 10k
C6 N003 N001 {mc{.022e-6,tol}}
C7 N003 N001 {mc{2700e-12,tol}}
C8 N005 N003 {mc{6800e-12,tol}}
C9 N005 N003 {mc{110e-12,tol}}
R11 N003 N002 {mc{47k,tol}}
R12 N005 N004 {mc{6.2k,tol}}
R13 OUT N005 {mc{240,tol}}
C10 OUT 0 {mc{2.2e-9,tol}}
C11 IN 0 {mc{360e-12,tol}}
V_cart IN 0 AC 0.7071m
.inc LM4562Fixed.LIB
.ac dec 50 20 20k
.step param X 0 50 1 ; Monte Carlo runs
.param tol=.01 ; +/- 1% component tolerance
.inc LM4562Fixed.LIB
.backanno
.end
